US05352655
First, 0.5 g of platinum oxide was added to a solution formed by dissolving 25.3 g of 1-methyl-1-[3-(1-methylethenyl)phenyl]ethylamine in 100 ml of ethyl alcohol, and a hydrogenation reaction was then carried out at a temperature of 15° to 35° C. for 7 hours under atmospheric pressure under a hydrogen gas stream. Afterward, reaction residues were removed by filtration, and the resultant filtrate was then concentrated to obtain 25.0 g of 1-methyl-1-[3-(1-methylethyl)phenyl]ethylamine.

reactant | 1-methyl-1-[3-(1-methylethenyl)phenyl]ethylamine | 25.3 g | CC(C)(C1=CC(=CC=C1)C(=C)C)N | C12H17N
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 1-methyl-1-[3-(1-methylethyl)phenyl]ethylamine | 25.0 g | CC(C)(C1=CC(=CC=C1)C(C)C)N | C12H19N
